US09120749B2
{4-[trans-4-Aminocyclohexylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone
Following general procedure A-2, tert-butyl trans-4-[3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]cyclohexylcarbamate (25.7 mg, 0.045 mmol) was reacted with TFA (2 mL) to afford the desired product (8.8 mg, 42%) as a yellow-orange solid: 1H NMR (500 MHz, CD3OD) δ 9.14 (s, 1H), 8.35 (d, J=1.7 Hz, 1H), 8.04 (dd, J=8.7, 1.9 Hz, 1H), 7.94 (d, J=8.7 Hz, 1H), 7.69 (s, 2H), 4.14 (s, 1H), 3.29-3.20 (m, 1H), 2.88-2.79 (m, 1H), 2.37 (d, J=12.5 Hz, 2H), 2.19 (d, J=11.0 Hz, 2H), 1.76-1.64 (m, 2H), 1.64-1.52 (m, 2H), 1.23-1.18 (m, 2H), 1.15-1.10 (m, 2H); ESI MS m/z 470 [C25H25Cl2N3O2+H]+; HPLC 94.9% (AUC), tR=10.74 min.

reactant | tert-butyl trans-4-[3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]cyclohexylcarbamate | 0.045 mmol, 25.7 mg | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C1=CC(=C(C(=C1)Cl)O)Cl | C30H33Cl2N3O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {4-[trans-4-Aminocyclohexylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone | 8.8 mg, 42% | N[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)Cl)O)Cl)C(=O)C1CC1 | C25H25Cl2N3O2
